### PR TITLE
[Merged by Bors] - feat: quotient lift on a finite family

### PR DESCRIPTION
**Pull request by astrainfinita**
In the future it may be used to prove that `ZFSet` is a model of ZF set theory without using `Classical.choice`. Specifically, it will be used to prove that all first-order formulas of `ZFSet` are definable.

Comparing to `(finChoice q).liftOn f`, `finLiftOn q f` asks users to provide a proof of `(∀ i, a i ≈ b i) → f a = f b` instead of `a ≈ b → f a = f b`, which is more readable and easier to rewrite. It also makes it easier for users to discover and use relevant APIs.

---

- [x] depends on: #5549

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5549
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by YaelDillies** [comment]
> In the future it may be used to prove that `ZFSet` is a model of ZF set theory without using `Classical.choice`. Specifically, it will be used to prove that all first-order formulas of `ZFSet` are definable.

Cn you add that t othe PR description?

File: Mathlib/Data/Fintype/Quotient.lean [hunk 1]
```diff
@@ -1,90 +1,241 @@
...
 
 ## Main definitions
 
-* `Quotient.finChoice`
+* `Quotient.finChoice`: Given a function `f : Π i, Quotient (S i)` on a fintype `ι`, returns the
+  class of functions `Π i, α i` sending each `i` to an element of the class `f i`.
+* `Quotient.finChoiceEquiv`: A finite family of quotients is equivalent to a quotient of
+  finite families.
+* `Quotient.finLiftOn`: Given a fintype `ι`. A function on `Π i : ι, α i` which respects
+  setoid `S i` for each `i` can be lifted to a function on `Π i : ι, Quotient (S i)`.
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Quotient.lean:22]:
```suggestion
* `Quotient.finLiftOn`: Given a fintype `ι`. A function on `Π i, α i` which respects
  setoid `S i` for each `i` can be lifted to a function on `Π i, Quotient (S i)`.
```

File: Mathlib/Data/Fintype/Quotient.lean [hunk 2]
```diff
@@ -1,90 +1,241 @@
...
+
+section Fintype
+variable {ι : Type*} [Fintype ι] [DecidableEq ι] {α : ι → Sort*} [S : ∀ i, Setoid (α i)] {β : Sort*}
+
+/-- Choice-free induction principle for quotients indexed by a finite type.
+  See `Quotient.induction_on_pi` for the general version assuming `Classical.choice`. -/
+@[elab_as_elim]
+lemma fin_ind {C : (∀ i, Quotient (S i)) → Prop}
+    (f : ∀ a : ∀ i, α i, C (⟦a ·⟧)) (q : ∀ i, Quotient (S i)) : C q := by
+  have : ∀ {m : Multiset ι} (C : (∀ i ∈ m, Quotient (S i)) → Prop)
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Quotient.lean:77]:
```suggestion
  have {m : Multiset ι} (C : (∀ i ∈ m, Quotient (S i)) → Prop) :
```

File: Mathlib/Data/Fintype/Quotient.lean [hunk 3]
```diff
@@ -1,90 +1,241 @@
...
+/-- Given a collection of setoids indexed by a fintype `ι` and a function that for each `i : ι`
+  gives a term of the corresponding quotient type, then there is corresponding term in the quotient
+  of the product of the setoids.
+  See `Quotient.choice` for the noncomputable general version. -/
+def finChoice (q : ∀ i, Quotient (S i)) :
+    @Quotient (∀ i, α i) piSetoid := by
+  let e := Equiv.subtypeQuotientEquivQuotientSubtype (fun l : List ι ↦ ∀ i, i ∈ l)
+    (fun s : Multiset ι ↦ ∀ i, i ∈ s) (fun i ↦ Iff.rfl) (fun _ _ ↦ Iff.rfl) ⟨_, Finset.mem_univ⟩
+  refine e.liftOn
+    (fun l ↦ (listChoice (fun i _ ↦ q i)).map (fun a i ↦ a i (l.2 i)) ?_) ?_
```
Comment (YaelDillies) [inline Mathlib/Data/Fintype/Quotient.lean:100]:
```suggestion
    (fun l ↦ (listChoice fun i _ ↦ q i).map (fun a i ↦ a i (l.2 i)) ?_) ?_
```

File: Mathlib/Data/Quot.lean [hunk 4]
```diff
@@ -382,6 +382,12 @@ instance piSetoid {ι : Sort*} {α : ι → Sort*} [∀ i, Setoid (α i)] : Seto
             fun h _ ↦ Setoid.symm (h _),
             fun h₁ h₂ _ ↦ Setoid.trans (h₁ _) (h₂ _)⟩
 
+/-- Given a class of functions `q : @Quotient (∀ i, α i) _`, returns the class of `i`-th projection
+`Quotient (S i)`. -/
+def Quotient.eval {ι : Type*} {α : ι → Sort*} [S : ∀ i, Setoid (α i)]
+    (q : @Quotient (∀ i, α i) (by infer_instance)) (i : ι) : Quotient (S i) :=
+  q.map (· i) (fun _ _ h ↦ by exact h i)
```
Comment (YaelDillies) [inline Mathlib/Data/Quot.lean:389]:
```suggestion
  q.map (· i) fun _ _ h ↦ by exact h i
```

**Review by YaelDillies — APPROVED** [review]
maintainer merge

apart from that. Thanks!

File: Mathlib/Data/Fintype/Quotient.lean [hunk 5]
```diff
@@ -1,90 +1,241 @@
...
+      (_ : ∀ a : ∀ i ∈ m, α i, C (⟦a · ·⟧)) (q : ∀ i ∈ m, Quotient (S i)), C q := by
+    intro m C
+    induction m using Quotient.ind
+    exact list_ind (S := S)
+  exact this (fun q ↦ C (q · (Finset.mem_univ _))) (fun _ ↦ f _) (fun i _ ↦ q i)
+
+/-- Choice-free induction principle for quotients indexed by a finite type.
+  See `Quotient.induction_on_pi` for the general version assuming `Classical.choice`. -/
+@[elab_as_elim]
+lemma fin_induction_on {C : (∀ i, Quotient (S i)) → Prop}
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Quotient.lean:87]: Should this be `induction_on_fintype_pi` to match `induction_on_pi`?

File: Mathlib/Data/Fintype/Quotient.lean [hunk 6]
```diff
@@ -1,90 +1,241 @@
...
+  induction finChoice q using Quotient.ind
+  exact h _ _ e.elim
+
+@[simp]
+lemma finLiftOn_mk (a : ∀ i, α i) :
+    @finLiftOn _ _ _ _ _ β (⟦a ·⟧) = fun f _ ↦ f a := by
+  ext f h
+  dsimp [finLiftOn]
+  rw [finChoice_eq]
   rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Quotient.lean:136]: It's not immediately clear that `finLiftOn` is useful, given you can spell it `(finChoice q).liftOn f h`. Can you explain the motivation for introducing it in the PR description?

File: Mathlib/Data/Quot.lean [hunk 7]
```diff
@@ -387,6 +387,12 @@ instance piSetoid {ι : Sort*} {α : ι → Sort*} [∀ i, Setoid (α i)] : Seto
             fun h _ ↦ Setoid.symm (h _),
             fun h₁ h₂ _ ↦ Setoid.trans (h₁ _) (h₂ _)⟩
 
+/-- Given a class of functions `q : @Quotient (∀ i, α i) _`, returns the class of `i`-th projection
+`Quotient (S i)`. -/
+def Quotient.eval {ι : Type*} {α : ι → Sort*} [S : ∀ i, Setoid (α i)]
```
Comment (eric-wieser) [inline Mathlib/Data/Quot.lean:392]: Can you add a lemma characterizing the effect when applied to `mk`?

File: Mathlib/Data/Fintype/Quotient.lean [hunk 8]
```diff
@@ -1,90 +1,239 @@
 /-
 Copyright (c) 2018 Mario Carneiro. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Mario Carneiro
+Authors: Mario Carneiro, Yuyang Zhao
 -/
+import Mathlib.Data.List.Pi
```
Comment (Vierkantor) [inline Mathlib/Data/Fintype/Quotient.lean:6]: I'm a bit wary of adding extra imports here since this file does get imported by a big chunk of Mathlib. But looking at the import graph, most of those dependencies look like good splitting candidates anyway, so I think on balance it does not cause a bigger tangle than we already have.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
